US07863332B2
1.0 g (5.5 mmol, 1.0 eq) of methyl 3-(4-hydroxyphenyl)propanoate is dissolved in 8 mL of dichloromethane in the presence of 1 ml of triethylamine. 1.12 mL (6.6 mmol, 1.2 eq) of triflic anhydride are added at 0° C. The reaction mixture is stirred for 1 hour at 0° C. The reaction is stopped by addition of 50 mL of saturated sodium hydrogen carbonate solution and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then filtered on silica gel (1/1 heptane/ethyl acetate). After evaporating off the solvents, the oil obtained is dissolved in 6 mL of an 8/2 mixture of dimethylformamide and of 2M potassium phosphate solution. 1.0 g (6.6 mmol, 1.2 eq) of N-methyl-3-aminophenylboronic acid are added, along with 317 mg of tetrakis(triphenylphosphine)palladium. The reaction mixture is stirred for 3 hours at 90° C. The reaction is stopped by addition of 50 mL of water and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). 0.92 g of methyl 3-(3′-methylaminobiphenyl-4-yl)propanoate is obtained. Yield=61%

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 5.5 mmol, 1.0 g, 1.0 eq | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | triflic anhydride | 6.6 mmol, 1.12 mL, 1.2 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
reactant | N-methyl-3-aminophenylboronic acid | 6.6 mmol, 1.0 g, 1.2 eq | CNC=1C=C(C=CC1)B(O)O | C7H10BNO2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | potassium phosphate | 2M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 317 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
product | methyl 3-(3′-methylaminobiphenyl-4-yl)propanoate | 0.92 g, Yield=61% | CNC=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OC | C17H19NO2
